US05688795
A mixture of 1-(5-chloro-2-methoxyphenyl)piperazine (365 mg, 1.6 mmol), prepared as in Example 2, 2-(3-chloropropyl)amino-N,N-dimethylbenzamide (385 mg of crude mixture), prepared as in Example 28, potassium carbonate (550 mg, 3.98 mmol) and sodium iodide (240 mg, 1.6 mmol) in 20 mL of acetonitrile was heated at reflux for 18 hours. The mixture was poured into water and extracted with ethyl acetate (2×50 mL). The combined extract was washed with brine, dried (MgSO4) and concentrated. The residue was purified on silica gel by flash chromatography eluting with 6% methanol/methylene chloride to give 2-{3-[4-(5-chloro-2-methoxyphenyl)piperazin-1-yl ]propylamino}-N,N-dimethylbenzamide (280 mg, 0.65 mmol).

reactant | 1-(5-chloro-2-methoxyphenyl)piperazine | 1.6 mmol, 365 mg | ClC=1C=CC(=C(C1)N1CCNCC1)OC | C11H15ClN2O
reactant | 2-(3-chloropropyl)amino-N,N-dimethylbenzamide | 385 mg | ClCCCNC1=C(C(=O)N(C)C)C=CC=C1 | C12H17ClN2O
reactant | potassium carbonate | 3.98 mmol, 550 mg | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 1.6 mmol, 240 mg | [I-].[Na+]
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | 2-{3-[4-(5-chloro-2-methoxyphenyl)piperazin-1-yl ]propylamino}-N,N-dimethylbenzamide | 0.65 mmol, 280 mg | ClC=1C=CC(=C(C1)N1CCN(CC1)CCCNC1=C(C(=O)N(C)C)C=CC=C1)OC | C23H31ClN4O2
